US08389524B2
1-({4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (2:1 mixture of S:R)
The title compound was prepared from 1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (2:1 mixture of S:R prepared analogously to Example 11(a-d)) but using 7-(methyloxy)-1-[(2R)-2-oxiranylmethyl]-3,4-dihydro-1,8-naphthyridin-2(1H)-one (for a synthesis see example 5(f)) and 2,3-dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde (for a synthesis see WO2004058144, Example 60) according to the general method of Example 12.

reactant | 1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | NC1CCN(CC1)CC1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | 7-(methyloxy)-1-[(2R)-2-oxiranylmethyl]-3,4-dihydro-1,8-naphthyridin-2(1H)-one | COC1=CC=C2CCC(N(C2=N1)C[C@H]1OC1)=O | C12H14N2O3
reactant | 2,3-dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde | S1CCOC=2C=NC(=CC21)C=O | C8H7NO2S
product | 1-({4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | S1COC=2C=NC(=CC21)CNC2CCN(CC2)CC2CN1C(C=CC=3C=CC(N2C13)=O)=O | C23H25N5O3S
